US07220862B2
(R)-3-(2-Oxo-2,3-dihydro-benzooxazol-6-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid
Prepared as described above for (R)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-yl]-propionic acid. The hydrolysis conditions (lithium hydroxide/methanol-tetrahydrofuran-water (1:1:1) at −15° C. overnight were used. The title compound was obtained as a white solid (95%). Mass spec.: 480.30 (MH)+.

reactant | (R)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indazol-5-yl]-propionic acid | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)N[C@@H](C(=O)O)CC=1C=C2C=NN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C | C29H38N6O6SSi
reactant | lithium hydroxide methanol tetrahydrofuran water | [OH-].[Li+].CO.O1CCCC1.O
product | (R)-3-(2-Oxo-2,3-dihydro-benzooxazol-6-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | O=C1OC2=C(N1)C=CC(=C2)C[C@H](C(=O)O)NC(=O)N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O | C24H25N5O6
